US03987038
To 60 ml DMF is added 13.5 grams (0.25 mole) of sodium methoxide. To this slurry at 15°C. is added a solution of 20 grams (0.062 mole) of 2,3-dihydro-N-(5-methyl-3-isoxazolyl)-3-oxo-1,2-benzisothiazole-2-acetamide 1,1-dioxide dissolved in 70 ml DMF. The reaction mixture is stirred at 25°-30°C. for a half hour whereupon it is acidified and extracted with chloroform. These extracts are washed with sodium bicarbonate and water, dried (na2SO4) and concentrated to an oil which is triturated with petroleum ether to give 16.3 grams (75%) of methyl 2-{[({[(5-methyl-3-isoxazolyl)amino]carbonyl}methyl)amino]sulfonyl}benzoate, mp 153°-156°C.

reactant | sodium methoxide | 0.25 mole, 13.5 grams | C[O-].[Na+]
reactant | 2,3-dihydro-N-(5-methyl-3-isoxazolyl)-3-oxo-1,2-benzisothiazole-2-acetamide 1,1-dioxide | 0.062 mole, 20 grams | CC1=CC(=NO1)NC(CN1S(C2=C(C1=O)C=CC=C2)(=O)=O)=O | C13H11N3O5S
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | methyl 2-{[({[(5-methyl-3-isoxazolyl)amino]carbonyl}methyl)amino]sulfonyl}benzoate | 16.3 grams, 75% | CC1=CC(=NO1)NC(=O)CNS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C14H15N3O6S
